US08012956B2
To a mixture of magnesium turnings (0.059 g, 2.40 mmol) in tetrahydrofuran (1 ml) was added a solution of 6-bromo-2,3-dimethoxy toluene (0.660 g, 2.3 mmol) in tetrahydrofuran (1 ml). The reaction was initiated by addition of methylmagnesium bromide and the solution was stirred at room temperature overnight under nitrogen. To the mixture was then added an excess of dry ice. When the addition was complete, water was added (2 ml) followed by 1.5 M hydrochloric acid to pH 2. The water phase was extracted with ethyl acetate (2×5 ml) and the combined organic layers were dried over sodium sulfate, filtered and concentrated to give 3,4-dimethoxy-2-methylbenzoic acid (0.315 g, 70% yield). MS (EI) for C10H12O4: 195 (M−H).

reactant | magnesium | 2.40 mmol, 0.059 g | [Mg] | Mg
reactant | 6-bromo-2,3-dimethoxy toluene | 2.3 mmol, 0.660 g | BrC1=CC=C(C(=C1C)OC)OC | C9H11BrO2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | dry ice | C(=O)=O | CO2
reactant | hydrochloric acid | 1.5 M | Cl | ClH
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3,4-dimethoxy-2-methylbenzoic acid | 0.315 g, 70% yield | COC=1C(=C(C(=O)O)C=CC1OC)C | C10H12O4
